US09079866B2
3′-Fluoro-N-[(1R)-2-hydroxy-1-methylethyl]-4′-(1H-pyrrolo[2,3-b]pyridin-5-yl)biphenyl-2-sulfonamide
The title compound was prepared using methods analogous to those described in Example 376 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine and (R)-2-bromo-N-(1-hydroxypropan-2-yl)benzenesulfonamide. MS (ESI): mass calcd. for C22H20FN3O3S, 425.12; m/z found, 426.0 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 9.65 (s, 1H), 8.30-8.19 (m, 2H), 7.93-7.84 (m, 1H), 7.69-7.61 (m, 1H), 7.61-7.53 (m, 1H), 7.44-7.31 (m, 4H), 7.27 (d, J=7.8, 1H), 6.56-7.47 (m, 1H), 6.07 (d, J=6.5, 1H), 3.57 (t, J=7.0, 1H), 3.49-3.32 (m, 2H), 2.41 (s, 1H), 1.04 (d, J=6.4, 3H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=C2C(=NC1)NC=C2 | C19H20BFN2O2
reactant | (R)-2-bromo-N-(1-hydroxypropan-2-yl)benzenesulfonamide | BrC1=C(C=CC=C1)S(=O)(=O)N[C@@H](CO)C | C9H12BrNO3S
product | 3′-Fluoro-N-[(1R)-2-hydroxy-1-methylethyl]-4′-(1H-pyrrolo[2,3-b]pyridin-5-yl)biphenyl-2-sulfonamide | FC=1C=C(C=CC1C=1C=C2C(=NC1)NC=C2)C=2C(=CC=CC2)S(=O)(=O)N[C@@H](CO)C | C22H20FN3O3S
